US04122186
A solution of 26.8 g (0.2 mol) of propionphenone, 80 g (0.8 mol) of ammonium carbonate dissolved in 300 ml of water and 28 g (0.4 mol) of potassium cyanide in 300 ml of ethanol is heated under reflux for 8 hours, whilst stirring. The solution is cooled in a mixture of ice and salt; the hydantoin precipitates. The precipitate thus obtained is filtered off and washed with water. 27.1 g (yield: 66%) of 5-ethyl-5-phenyl-hydantoin, melting at 202° C., are obtained.

reactant | propionphenone | 0.2 mol, 26.8 g | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | ammonium carbonate | 0.8 mol, 80 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 0.4 mol, 28 g | [C-]#N.[K+]
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 5-ethyl-5-phenyl-hydantoin | 27.1 g, yield: 66% | C(C)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C11H12N2O2
